US07381719B2
4-(3-Chloro-5-{[2-(3-chloro-phenyl)-ethylamino]-methyl}-pyridin-2-yloxy)-benzamide
Using a method similar to Example 462, using 4-(3-chloro-5-formyl-pyridin-2-yloxy)-benzamide (101 mg, 0.365 mmol) and 2-(3-chloro-phenyl)-ethylamine (0.056 mL, 0.402 mmol) gives the title compound (57 mg, 36%). Mass spectrum (ion spray): m/z=415.9 (M+1); 1H NMR (CDCl3): 7.93 (d, J=1.7 Hz, 1H), 7.86 (d, J=8.7 Hz, 2H), 7.77 (d, J=1.7 Hz, 1H), 7.22-7.17 (m, 4H), 7.07 (d, J=7.0 Hz, 1H), 6.12 (bs, 2H), 3.74 (s, 2H), 2.87 (t, J=6.8 Hz, 2H), 2.78 (t, J=6.8 Hz, 2H), 1.42 (bs, 1H).

reactant | 4-(3-chloro-5-formyl-pyridin-2-yloxy)-benzamide | 0.365 mmol, 101 mg | ClC=1C(=NC=C(C1)C=O)OC1=CC=C(C(=O)N)C=C1 | C13H9ClN2O3
reactant | 2-(3-chloro-phenyl)-ethylamine | 0.402 mmol, 0.056 mL | ClC=1C=C(C=CC1)CCN | C8H10ClN
product | 4-(3-Chloro-5-{[2-(3-chloro-phenyl)-ethylamino]-methyl}-pyridin-2-yloxy)-benzamide | 57 mg, 36% | ClC=1C(=NC=C(C1)CNCCC1=CC(=CC=C1)Cl)OC1=CC=C(C(=O)N)C=C1 | C21H19Cl2N3O2
